### ISSUE TITLE
Add IMO 2013 Problem 6 (beautiful labellings count) as a research-solved combinatorics statement

### ISSUE THREAD

**Issue by him1411** [google-deepmind/formal-conjectures#4408]
**Problem.** I'd like to add a formalised statement of **IMO 2013 Problem 6** ("beautiful labellings"), a combinatorics problem with a well-known, expert-accepted human solution but — to my knowledge — no complete machine-checked proof in any formal system.

**Statement (informal).** Place `n + 1` points on a circle and label them with a permutation of `0, 1, …, n`. Call a labelling *beautiful* if for every four labels `a < b < c < d` with `a + d = b + c`, the chord joining the points labelled `a, d` does not cross the chord joining the points labelled `b, c`. Let `M(n)` be the number of beautiful labellings counted up to rotation, and let `N(n)` be the number of ordered pairs of coprime positive integers `(x, y)` with `x + y ≤ n`. Then for all `n ≥ 3`:

```
M(n) = N(n) + 1.
```

**Proposed classification.**
- `@[category research solved]` — justified by the widely-accepted official/competition solution (per the CONTRIBUTING definition, a "research solved" problem includes one with "an informal solution widely accepted by experts in the field"). This mirrors the existing solved olympiad-style entries in `FormalConjectures/Other/` (e.g. `BeaverMathOlympiad.lean`).
- `@[AMS 5]` — combinatorics (05xx).
- **No `@[formal_proof]` attribute.** I do not have a complete formal proof to link. (A partial Coq formalisation exists that reduces the count to three geometric residual lemmas left as axioms, so it is *not* a complete proof and I will not claim one.)

**Why it fits the repo's goals.** Although the problem is *solved by humans*, its **formalisation is genuinely open** — there is no complete formal proof of this identity in Lean/mathlib (nor, to my knowledge, in any system). A faithful Lean statement is therefore a real target for automated provers and autoformalisation tools, which is exactly the benchmark value the README describes. The statement also exercises a nontrivial mix of combinatorial-geometry (cyclic betweenness, chord crossing) and number theory (coprime-pair counting).

**Proposed location.** `FormalConjectures/Other/` (there is no olympiad/competition subdirectory; `BeaverMathOlympiad.lean` sets the precedent for competition-style problems living in `Other/`). Happy to move it if you'd prefer a different location.

**Draft statement sketch (Lean 4 / mathlib — not yet `lake build`-verified):**

```lean
namespace Imo2013P6

/-- Strict cyclic betweenness of `a, b, c` on `{0, …, m-1}`. -/
def sbtw (a b c : ℕ) : Prop :=
  (a < b ∧ b < c) ∨ (b < c ∧ c < a) ∨ (c < a ∧ a < b)

/-- Chords `p–q` and `r–s` cross iff exactly one of `r, s` lies on arc `p→q`. -/
def Cross (p q r s : ℕ) : Prop := Xor' (sbtw p r q) (sbtw p s q)

/-- A beautiful labelling of the `m` points: a bijection of `Fin m` with no two
    equal-label-sum chords crossing. -/
def Beautiful (m : ℕ) (f : ℕ → ℕ) : Prop :=
  (Set.InjOn f (Finset.range m) ∧ ∀ i < m, f i < m) ∧
  ∀ a b c d, a < m → b < m → c < m → d < m →
    a < b → b < c → c < d → a + d = b + c →
    ¬ Cross (f a) (f d) (f b) (f c)

/-- `M n`: number of beautiful labellings of `n+1` points, normalised by `f 0 = 0`
    (rotation representative). -/
noncomputable def M (n : ℕ) : ℕ :=
  Nat.card {f : ℕ → ℕ // Beautiful (n + 1) f ∧ f 0 = 0}

/-- `N n`: number of ordered coprime pairs `(x, y)`, `x, y ≥ 1`, `x + y ≤ n`. -/
def N (n : ℕ) : ℕ :=
  ((Finset.Icc 1 n ×ˢ Finset.Icc 1 n).filter
    (fun p => p.1 + p.2 ≤ n ∧ Nat.Coprime p.1 p.2)).card

@[category research solved, AMS 5]
theorem imo2013_p6_beautiful_labellings (n : ℕ) (hn : 3 ≤ n) :
    M n = N n + 1 := by
  sorry

-- Basic API tests pinning the bespoke definitions to their intended values
-- (per the "add basic API tests" style guideline). These are computed, not
-- assumed; the values are cross-checked against a separate formalisation.
@[category test]
theorem N_four : N 4 = 5 := by decide

@[category test]
theorem N_five : N 5 = 9 := by decide

-- (Analogous `M 3 = 4`, `M 4 = 6`, `M 5 = 10` tests once `M` is given a
--  decidable/computable presentation — see note below.)

end Imo2013P6
```

*(The mathlib-idiom choices are provisional and I will finalise + `lake build`-verify them once scope is confirmed. Two things I'll settle at that stage: (i) `M` as written uses `Nat.card` over a subtype, which is not directly `decide`-able — I'll give it a computable presentation (e.g. counting over `Finset` permutations) so the `M 3 = 4 / M 4 = 6 / M 5 = 10` API tests actually reduce, matching how the counts are pinned elsewhere; (ii) the exact `Set.InjOn`/`Xor'` idioms. The base values `M 3=4, M 4=6, M 5=10` and `N 4=5, N 5=9` are independently computed and fix the statement's faithfulness.)*

**Reference:** [IMO 2013 Problem 6](https://www.imo-official.org/problems.aspx) (the "beautiful labellings" problem; AoPS: https://artofproblemsolving.com/community/c6h550185).

Does this fit the repository's scope? If so, I'll open a PR per the contribution process.

**Comment by Smetalo** [comment]
Since #4409 was closed, should this be closed as well?
